US08957093B2
Step 2: (S)-4′-((2,3-dimethyl-5-((1-(pyridin-2-yl)ethyl)carbamoyl)-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid
The title compound was prepared following the same general protocol as described in Step 8-9, Example 1, using the (S)-1-(pyridin-2-yl)ethanamine and the 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid. ESI-MS (m/z): 504 [M+H]+.

reactant | (S)-1-(pyridin-2-yl)ethanamine | N1=C(C=CC=C1)[C@H](C)N | C7H10N2
reactant | 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C29H29NO4
product | (S)-4′-((2,3-dimethyl-5-((1-(pyridin-2-yl)ethyl)carbamoyl)-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid | CC=1N(C2=CC=C(C=C2C1C)C(N[C@@H](C)C1=NC=CC=C1)=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C32H29N3O3
